data/oMe_Silver.jsonl
{"reaction_id": "NR-130_1-CC_2-c2ccc(F)cc2_3-c2ccccc2","name": "Leimgruber-Batcho Indole Synthesis","level": "medium","reactants_smiles": ["O=[N+]([O-])c1ccccc1C(c2ccc(F)cc2)=C(c2ccccc2)N(CC)CC"],"products_smiles": ["c1ccc2c(c1)c(c2ccc(F)cc2)c(c2ccccc2)[nH]2"],"conditions": "[H]","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "Nc1ccccc1C(c2ccc(F)cc2)=C(c2ccccc2)N(CC)CC","rationale": "Single-electron transfer reduces the nitro group to an aniline, favored by the electron-rich aromatic ring and reductive conditions, stabilizing intermediates via resonance."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Nc1ccccc1C(c2ccc(F)cc2)C(c2ccccc2)=[N+](CC)CC","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccc2c(c1)C(c2ccc(F)cc2)C(c2ccccc2)=[NH+]2","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc2c(c1)c(c2ccc(F)cc2)c(c2ccccc2)[nH]2","rationale": "Elimination of the leaving group restores aromaticity in the newly formed five-membered ring, providing strong thermodynamic driving force for indole formation."}],"description": "Under reductive conditions, the nitro group is reduced to an aniline, which undergoes intramolecular cyclization via nucleophilic attack on an iminium intermediate, followed by elimination to yield the indole core. Electronic activation and proximity drive the ring closure."}
{"reaction_id": "NR-032_1-CCCCCC_2-c1ccc2ccccc2c1","name": "Büchner-Curtius-Schlotterbeck Reaction","level": "medium","reactants_smiles": ["C(=O)(CCCCCC)(c1ccc2ccccc2c1)","C=[N+]=[N-]"],"products_smiles": ["C(=O)(c1ccc2ccccc2c1)(CCCCCCC)"],"conditions": "","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(C[N+]#N)(CCCCCC)(c1ccc2ccccc2c1)","step_weight": 0,"rationale": "The azide nitrogen lone pair attacks the electrophilic carbonyl carbon, whose partial positive charge is enhanced by the electron-withdrawing oxygen, forming a tetrahedral intermediate stabilized by resonance."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(c1ccc2ccccc2c1)(CCCCCCC)","step_weight": 0,"rationale": "Thermal conditions promote a 1,2-shift as nitrogen gas leaves, driven by the stability of the carbonyl and relief of electron deficiency at the migrating carbon."}],"description": "The reaction proceeds via nucleophilic addition of an organoazide to the carbonyl, forming a tetrahedral intermediate. Under the conditions, a 1,2-shift occurs, driven by nitrogen extrusion and formation of a more stable carbonyl product with rearranged substituents."}
